US08372837B2
Step A. Preparation of 2-(methylthio)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidine
To a stirring solution of 5-bromo-2-(methylthio)pyrimidine (950 mg, 4.63 mmol) in DMF (5 mL) at room temperature under argon was added 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.77 g, 6.95 mmol), potassium acetate (1.36 g, 13.90 mmol), and diacetoxypalladium (104 mg, 0.463 mol). The resulting suspension was degassed with argon for 15 min and heated at 85° C. overnight. The reaction was cooled to room temperature. EtOAc (10 mL) was added to the reaction mixture, which was washed with brine (15 mL×3). Organic phase was dried (MgSO4), filtered and concentrated. The crude product was used directly to next step.

reactant | 5-bromo-2-(methylthio)pyrimidine | 4.63 mmol, 950 mg | BrC=1C=NC(=NC1)SC | C5H5BrN2S
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 6.95 mmol, 1.77 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 13.90 mmol, 1.36 g | C(C)(=O)[O-].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | diacetoxypalladium | 0.463 mol, 104 mg | C(C)(=O)O[Pd]OC(C)=O
product | 2-(methylthio)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidine | CSC1=NC=C(C=N1)B1OC(C(O1)(C)C)(C)C | C11H17BN2O2S
